US08420632B2
3.8: (S)-3-(4-Benzyloxybenzenesulfonylamino)-N-hydroxy-2-(4-methanesulfonyl-piperazin-1-yl)propionamide
224 mg (1.7 mmol) of 1-hydroxybenzotriazole and 318 mg (1.7 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride are added successively to 750 mg (1.5 mmol) of (S)-3-(4-benzyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid in 20 ml of dimethylformamide. After stirring at ambient temperature for 20 min, a solution of 244 mg (1.7 mmol) of O-tert-butyldimethylsilylhydroxylamine in 3 ml of dimethylformamide is added. The reaction medium is then stirred at ambient temperature for 18 h and then 2 ml of a saturated aqueous solution of sodium hydrogen carbonate and finally 2 ml of water are added. After extraction with ethyl acetate, the organic phase is washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over magnesium sulfate, filtered and concentrated. The crude residue obtained is taken up in 15 ml of ethyl acetate, heated to 70° C. and then brought back to ambient temperature, filtered and dried under vacuum.

reactant | 1-hydroxybenzotriazole | 1.7 mmol, 224 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.7 mmol, 318 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (S)-3-(4-benzyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid | 1.5 mmol, 750 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)NC[C@@H](C(=O)O)N1CCN(CC1)S(=O)(=O)C | C21H27N3O7S2
reactant | O-tert-butyldimethylsilylhydroxylamine | 1.7 mmol, 244 mg | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 2 ml | O | H2O
product | (S)-3-(4-Benzyloxybenzenesulfonylamino)-N-hydroxy-2-(4-methanesulfonyl-piperazin-1-yl)propionamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)NC[C@@H](C(=O)NO)N1CCN(CC1)S(=O)(=O)C | C21H28N4O7S2
